US06528525B1
2-Butyl-3-[4-[2-(4′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-179 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(4′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (400 mg), which is the product of Example 23, was reacted with aqueous sodium hydroxide solution (1N, 4.00 ml) and the reaction mixture was treated to give the title compound (350 mg) as a pale orange powder.

reactant | ethyl 2-butyl-3-[4-[2-(4′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 400 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C31H37NO5
reactant | sodium hydroxide | 1N, 4.00 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(4′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 350 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C29H33NO5
